US08729095B2
To an ethanol solution (6 ml) of tert-butyl 2-[(5-chloro-3-nitropyridin-2-yl)thio]-2-methylpropanoate (442 mg) were added at room temperature acetic acid (6 ml) and iron powder (418 mg), followed by stirring for 4.5 hours. The reaction solution was diluted with ethyl acetate, followed by filtration through Celite, and the filtrate was concentrated under reduced pressure. To the resulting residue were added saturated sodium hydrogen carbonate and ethyl acetate, followed by filtration through Celite, and then the solution was separated. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford tert-butyl 2-[(3-amino-5-chloropyridin-2-yl)thio]-2-methylpropanoate (342 mg).

reactant | ethanol | 6 ml | C(C)O | C2H6O
reactant | tert-butyl 2-[(5-chloro-3-nitropyridin-2-yl)thio]-2-methylpropanoate | 442 mg | ClC=1C=C(C(=NC1)SC(C(=O)OC(C)(C)C)(C)C)[N+](=O)[O-] | C13H17ClN2O4S
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 418 mg | [Fe] | Fe
product | tert-butyl 2-[(3-amino-5-chloropyridin-2-yl)thio]-2-methylpropanoate | 342 mg | NC=1C(=NC=C(C1)Cl)SC(C(=O)OC(C)(C)C)(C)C | C13H19ClN2O2S
